US07582281B2
To a stirred mixture containing 2-nitroimidazole (1 g, 8.34 mmol) and Cs2,CO3 (2.9 g, 8.90 mmol) in dimethylformaide (DMF, 50 ml), 1,3-ditosylpropane (3.84 g, 9.99 mmol) was added. The reaction was heated at 80° C. for 3 hours. The solvent was evaporated under vacuum and the residue was suspended in ethylacetate. The solid was filtered, the solvent was concentrated, loaded on a silica gel-packed column and eluted with hexane:ethylacetate (1:1). The product, 3-tosylpropyl-(2-nitroimidazole), was isolated (1.67 g, 57.5%) with m.p. 108-111° C. 1H-NMR (CDCl3) δ 2.23 (m, 2H), 2.48 (S, 3H), 4.06 (t, 2H, J=5.7 Hz), 4.52 (t, 2H, J=6.8 Hz), 7.09 (S, 1H), 7.24 (S, 1H), 7.40 (d, 2H, J=8.2 Hz), 7.77 (d, 2H, J=8.2 Hz).

reactant | 2-nitroimidazole | 8.34 mmol, 1 g | [N+](=O)([O-])C=1NC=CN1 | C3H3N3O2
reactant | 1,3-ditosylpropane | 9.99 mmol, 3.84 g | S(=O)(=O)(C1=CC=C(C)C=C1)CCCS(=O)(=O)C1=CC=C(C)C=C1 | C17H20O4S2
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-tosylpropyl-(2-nitroimidazole) | S(=O)(=O)(C1=CC=C(C)C=C1)CCCC=1N=C(NC1)[N+](=O)[O-] | C13H15N3O4S
